US08383821B2
tert-butyl 4-((3-bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-(2-fluorophenyl)piperidine-1-carboxylate.
A flask was charged with 1-bromo-3-(bromomethyl)-5-(trifluoromethyl)benzene (0.149 g, 0.47 mmol) and tert-butyl 4-(2-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (0.112 g, 0.36 mmol) in tetrahydrofuran (2 mL) at 0° C. The reaction was treated with potassium tert-butoxide (0.41 mg, 0.36 mmol), stirred at 0° C. for 20 min, and treated with another aliquot of potassium tert-butoxide (0.41 mg, 0.36 mmol). The reaction was allowed to warm to room temperature and was stirred for 16 h. The reaction mixture was evaporated in vacuo and the crude oil was purified by silica gel chromatography (5% ethyl acetate/95% hexanes→30% ethyl acetate/70% hexanes) to afford 0.138 g (70%) of the desired ether. Mass spec.: 546.03 (MH)+ LC tr=4.501 min. (Phenomenex-Luna 4.6×50 mm S10, 10% MeOH/90% H2O/0.1% TFA→90% MeOH/10% H2O/0.1% TFA Gradient Time=4 min, Flow rate=4 mL/min).

reactant | 1-bromo-3-(bromomethyl)-5-(trifluoromethyl)benzene | 0.47 mmol, 0.149 g | BrC1=CC(=CC(=C1)C(F)(F)F)CBr | C8H5Br2F3
reactant | tert-butyl 4-(2-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 0.36 mmol, 0.112 g | FC1=C(C=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
reactant | potassium tert-butoxide | 0.36 mmol, 0.41 mg | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 0.36 mmol, 0.41 mg | CC(C)([O-])C.[K+]
reactant | MeOH | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-((3-bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-(2-fluorophenyl)piperidine-1-carboxylate | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=C(C=CC=C2)F)C=C(C1)C(F)(F)F | C25H28BrF4NO3
